US09102682B2
tert-butyl N-[[1-[(5-bromo-2-chloro-pyrimidin-4-yl)amino]cyclohexyl]methyl]carbamate was synthesized using 5-bromo-2,4-dichloro-pyrimidine and Intermediate K using analogous reaction conditions as described for tert-butyl N-[2-[(5-bromo-2-chloro-pyrimidin-4-yl)amino]-3-methyl-butyl]carbamate. 1H NMR (600 MHz, DMSO-d6) δ ppm 1.18-1.54 (m, 17H) 2.23 (d, J=14.35 Hz, 2H) 3.36 (d, J=6.44 Hz, 2H) 5.82 (s, 1H) 6.93 (s, 1H) 8.22 (s, 1H). LCMS (ESI) 419 (M+H).

reactant | 5-bromo-2,4-dichloro-pyrimidine | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
reactant | tert-butyl N-[2-[(5-bromo-2-chloro-pyrimidin-4-yl)amino]-3-methyl-butyl]carbamate | BrC=1C(=NC(=NC1)Cl)NC(CNC(OC(C)(C)C)=O)C(C)C | C14H22BrClN4O2
product | tert-butyl N-[[1-[(5-bromo-2-chloro-pyrimidin-4-yl)amino]cyclohexyl]methyl]carbamate | BrC=1C(=NC(=NC1)Cl)NC1(CCCCC1)CNC(OC(C)(C)C)=O | C16H24BrClN4O2
